US04642313
24.0 g of N-(4-fluorobenzoyl)-(2-furylcarbonyl)methylamine, 4.7 g of 61% sodium hydride and 18.4 g of ethyl bromoacetate are treated in the same manner as described in Preparation 1-(2). 21.0 g of ethyl 3-(4-fluorobenzoylamino)-3-(2-furylcarbonyl)propionate are thereby obtained. Yield: 64.8%

reactant | N-(4-fluorobenzoyl)-(2-furylcarbonyl)methylamine | 24.0 g | FC1=CC=C(C(=O)NCC(=O)C=2OC=CC2)C=C1 | C13H10FNO3
reactant | sodium hydride | 4.7 g | [H-].[Na+]
reactant | ethyl bromoacetate | 18.4 g | BrCC(=O)OCC | C4H7BrO2
product | ethyl 3-(4-fluorobenzoylamino)-3-(2-furylcarbonyl)propionate | 21.0 g, Yield: 64.8% | FC1=CC=C(C(=O)NC(CC(=O)OCC)C(=O)C=2OC=CC2)C=C1 | C17H16FNO5
